US05198449
2-Cyano-1-(3-phenoxypropyl)piperidine
Following the procedure of Preparation 9, the title compound is prepared from 3-phenoxypropyl bromide and 2-cyanopiperidine [Chem. Ber. 92, 1608-1613 (1959), Helv. Chim. Acta 46(4), 1190-1206 (1963)].

reactant | 3-phenoxypropyl bromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 2-cyanopiperidine | C(#N)C1NCCCC1 | C6H10N2
product | 2-Cyano-1-(3-phenoxypropyl)piperidine | C(#N)C1N(CCCC1)CCCOC1=CC=CC=C1 | C15H20N2O
